US08937073B2
4a) 4-(4-methoxy-2-trifluoromethyl-phenylamino)-benzonitrile
Analogously to Example 1a), 4-bromobenzonitrile was reacted with 2-trifluoromethyl-4-methoxy-aniline. After chromatographic purification through silica gel (petroleum ether with 10 to 30% ethyl acetate) the 4-(4-methoxy-2-trifluoromethyl-phenylamino)-benzonitrile was obtained in a yield of 60.5% of theory.

reactant | 4-bromobenzonitrile | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | 2-trifluoromethyl-4-methoxy-aniline | FC(C1=C(N)C=CC(=C1)OC)(F)F | C8H8F3NO
product | 4-(4-methoxy-2-trifluoromethyl-phenylamino)-benzonitrile | yield of 60.5% | COC1=CC(=C(C=C1)NC1=CC=C(C#N)C=C1)C(F)(F)F | C15H11F3N2O
